US07091353B2
1,8-Diazabicyclo[5,4,0]undec-7-ene (0.62 g, 4.08 mmol) was added to a stirred suspension of 4-(aminomethyl)-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione hydrochloride (0.6 g, 1.85 mmol) in CH3CN (50 mL). After stirring for 20 min, benzoyl chloride (0.31 g, 2.22 mmol) was added. The mixture was stirred at room temperature for 17 hours. The solvent was removed in vacuo and the residue was dissolved in CH2C12 (70 mL). The CH2Cl2 solution was washed with H2O (30 mL), brine (30 mL) and dried (MgSO4). The solvent was removed and the residue was purified by chromatography (SiO2, CH2Cl2:EtOAC 6:4) to give N-{[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]methyl}benzamide (0.55 g, 76%) as a white solid: mp 227–229° C.; 1H NMR (DMSO-d6) δ 11.16 (s, 1H), 9.16 (t, J=5.7 Hz, 1H), 7.95–7.72 (m, 5H), 7.60–7.46 (m, 3H), 5.22–5.12 (dd, J=5.4 and 12.8 Hz, 1H), 4.96 (d, J=5.7 Hz, 2H), 2.98–2.85 (m, 1H), 2.65–2.50 (m, 2H), 2.11–2.06 (m, 1H); 13C NMR (DMSO-d6) δ 172.72, 169.80, 167.54, 166.96, 166.60, 139.34, 134.77, 133.92, 133.02, 131.52, 131.42, 128.34, 127.28, 127.12, 121.83, 48.88, 38.32, 30.93, 21.98; Anal. Calcd. For C21H17N3O5: C, 64.45; H, 4.38; N, 10.74. Found: C, 64.47; H, 4.50; N, 10.34.

reactant | 1,8-Diazabicyclo[5,4,0]undec-7-ene | 4.08 mmol, 0.62 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 4-(aminomethyl)-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione hydrochloride | 1.85 mmol, 0.6 g | Cl.NCC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O
reactant | benzoyl chloride | 2.22 mmol, 0.31 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | CH3CN | 50 mL | CC#N | C2H3N
product | N-{[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]methyl}benzamide | 0.55 g, 76% | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)CNC(C1=CC=CC=C1)=O)=O)=O | C21H17N3O5
